US04939241
To a solution of O-benzyl-N-benzyloxycarbonyl-L-threonine (1.5 g), benzyl N-trifluoroacetyl-L-homoserinate (1.34 g) and 4-N,N-dimethylaminopyridine (48.8 mg) in methylene chloride (30 ml) was added N,N-diethylaminopropyl-N'-ethylcarbodiimide hydrochloride (840 mg) at 0° C. After stirring for an hour at room temperature, the reaction mixture was concentrated. The residue was dissolved in ethyl acetate and washed successively with 0.1N hydrochloric acid, water, 10% aqueous sodium hydrogen carbonate, water and brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated. The residue was chromatographed on silica gel eluting successively with a 1:1 mixture of methylene chloride and hexane, methylene chloride and a 50:1 mixture of methylene chloride and acetone (50:1) to give benzyl O-(O-benzyl-N-benzyloxycarbonyl-L-threonyl)-N-trifluoroacetyl-L-homoserinate (1.6 g).

reactant | O-benzyl-N-benzyloxycarbonyl-L-threonine | 1.5 g | C(C1=CC=CC=C1)O[C@@H]([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O)C | C19H21NO5
reactant | benzyl N-trifluoroacetyl-L-homoserinate | 1.34 g | FC(C(=O)N[C@@H](CCO)C(=O)OCC1=CC=CC=C1)(F)F | C13H14F3NO4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | benzyl O-(O-benzyl-N-benzyloxycarbonyl-L-threonyl)-N-trifluoroacetyl-L-homoserinate | 1.6 g | C(C1=CC=CC=C1)O[C@@H]([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OCC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1)C | C32H33F3N2O8
